US05604229
2-Amino-1,3-diacetoxy-2-octadecylpropane (700 mg) was dissolved in 35 ml of acetonitrile and 1.38 g of 37% formaldehyde and 330 mg of sodium cyanoborohydride were added thereto. The mixture was stirred at room temperature for 1 hour. Acetic acid (0.265 ml) was added thereto and the mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated and purified by silica gel column chromatography using hexane-ethyl acetate (4:1→3:1) as an eluent to give 436 mg of colorless, oily 1,3-diacetoxy-2-(N,N-dimethylamino)-2-octadecylpropane.

reactant | 2-Amino-1,3-diacetoxy-2-octadecylpropane | 700 mg | NC(COC(C)=O)(COC(C)=O)CCCCCCCCCCCCCCCCCC | C25H49NO4
reactant | formaldehyde | 1.38 g | C=O | CH2O
reactant | sodium cyanoborohydride | 330 mg | C(#N)[BH3-].[Na+]
reactant | Acetic acid | 0.265 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | 1,3-diacetoxy-2-(N,N-dimethylamino)-2-octadecylpropane | C(C)(=O)OCC(COC(C)=O)(CCCCCCCCCCCCCCCCCC)N(C)C | C27H53NO4
